US07838547B2
4-Butoxy-N-[4-(5-methyl hexahydropyrrolo[3,4-c]pyrrol-2-yl)phenyl]-benzamide
4-Butoxybenzoic acid was reacted with 4-(5-methylhexahydropyrrolo[3,4-c]pyrrol-2-yl)phenylamine by method E. The product with the molecular weight of 393.53 (C24H31N3O2); MS (ESI): 394 (M+H+) was obtained in this way.

reactant | 4-Butoxybenzoic acid | C(CCC)OC1=CC=C(C(=O)O)C=C1 | C11H14O3
reactant | 4-(5-methylhexahydropyrrolo[3,4-c]pyrrol-2-yl)phenylamine | CN1CC2C(C1)CN(C2)C2=CC=C(C=C2)N | C13H19N3
product | 4-Butoxy-N-[4-(5-methyl hexahydropyrrolo[3,4-c]pyrrol-2-yl)phenyl]-benzamide | C(CCC)OC1=CC=C(C(=O)NC2=CC=C(C=C2)N2CC3CN(CC3C2)C)C=C1 | C24H31N3O2
